US07214824B2
4(c): (4-tert-Butyl-3-fluorophenoxy)aceticacid
A mixture of tert-butyl (4-tert-butyl-3-fluorophenoxy)acetate (630 mg, 2.2 mmol), trifluoroacetic acid (3.0 ml), tetrahydrofuran (3.0 ml) and methylene dichloride (3.0 ml) was treated in the same procedure described in Example 3(c) to furnish 443 mg of the title compound which was used for further reaction without purification.

reactant | tert-butyl (4-tert-butyl-3-fluorophenoxy)acetate | 2.2 mmol, 630 mg | C(C)(C)(C)C1=C(C=C(OCC(=O)OC(C)(C)C)C=C1)F | C16H23FO3
reactant | trifluoroacetic acid | 3.0 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | tetrahydrofuran | 3.0 ml | O1CCCC1 | C4H8O
solvent | methylene dichloride | 3.0 ml | C(Cl)Cl | CH2Cl2
product | (4-tert-Butyl-3-fluorophenoxy)aceticacid | 443 mg | C(C)(C)(C)C1=C(C=C(OCC(=O)O)C=C1)F | C12H15FO3
